US05652271
25M Aqueous sodium hydroxide solution (11 ml) was added dropwise at 0° C. under nitrogen to a stirred solution of S-[3-(dipropylamino)propyl]isothiourea dihydrochloride (40 g) in water (100 ml), then the mixture was stirred at 95° C. for 2 hours and allowed to cool to ambient temperature. The product was extracted into ether (4×70 ml), the extracts were dried over magnesium sulphate, and the solvent was removed in vacuo. The residue was dissolved in ether, and the solution was saturated with hydrogen chloride to give a small amount of white solid which was collected by filtration. The filtrate was concentrated in vacuo, and the residue was combined with the white solid and dissolved in ethanol. The solution was saturated with hydrogen chloride and the solvent was removed in vacuo to leave crude 3-(dipropylamino)propanethiol hydrochloride (18.3 g) as a colourless semisolid which was used without purification.

reactant | sodium hydroxide | 25M, 11 ml | [OH-].[Na+]
reactant | S-[3-(dipropylamino)propyl]isothiourea dihydrochloride | 40 g | Cl.Cl.C(CC)N(CCCSC(N)=N)CCC
solvent | water | 100 ml | O | H2O
product | 3-(dipropylamino)propanethiol hydrochloride | 18.3 g | Cl.C(CC)N(CCCS)CCC | InChI=1S/C9H21NS.ClH/c1-3-6-10(7-4-2)8-5-9-11;/h11H,3-9H2,1-2H3;1H
